US09388183B2
To a stirred solution of 8-(benzyloxy)-6-chloroimidazo[1,2-b]pyridazine (D-4) (6.2 g, 23.8 mmol, 1.0 eq) in MeOH (100 mL), Pd/C (10%, 620 mg) is added. The resulting mixture is degassed and back-filled with hydrogen three times and then stirred at 50° C. under hydrogen for 24 h. The resulting mixture is filtered and concentrated in vacuo to afford the product, imidazo[1,2-b]pyridazin-8-ol hydrochloride (D-5).

reactant | 8-(benzyloxy)-6-chloroimidazo[1,2-b]pyridazine | 23.8 mmol, 6.2 g, 1.0 eq | C(C1=CC=CC=C1)OC=1C=2N(N=C(C1)Cl)C=CN2 | C13H10ClN3O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 620 mg | [Pd] | Pd
product | imidazo[1,2-b]pyridazin-8-ol hydrochloride | Cl.N=1C=CN2N=CC=C(C21)O | InChI=1S/C6H5N3O.ClH/c10-5-1-2-8-9-4-3-7-6(5)9;/h1-4,10H;1H
